US06511974B1
2-Chloro-4-(3-dimethylamino-2-propen-1-on-1-yl)-benzoic Acid, Methyl Ester
Gradually, 3-chloroperoxybenzoic acid (10.76 g) was added to a solution of 2-chloro-4-(3-dimethylamino-propyn-1yl)-benzoic acid, methyl ester (15.07 g in dichloromethane (40 ml), at a rate to maintain the reaction temperature at −20° C. The mixture was stirred for 10-15 minutes. The resulting N-oxide was purified by chromatography on Activity Grade I basic alumina (215 g), eluting with 10% methanol/dichloromethane. The solvent was evaporated in vacuo between 12 to 18° C. The resulting residue was dissolved in methanol (100 ml) and heated at 60-65° C. with stirring for 18 hours. After removing the solvent in vacuo, and the product was purified by column chromatography on silica gel (190 g), eluting with 70% ethyl acetate/hexane. Trituration with diethyl ether containing some hexane afforded the title compound as a solid (5.68 g), m.p. 92-96° C.

reactant | 3-chloroperoxybenzoic acid | 10.76 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 2-chloro-4-(3-dimethylamino-propyn-1yl)-benzoic acid, methyl ester | ClC1=C(C(=O)OC)C=CC(=C1)C#CCN(C)C | C13H14ClNO2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-Chloro-4-(3-dimethylamino-2-propen-1-on-1-yl)-benzoic Acid, Methyl Ester | 5.68 g | ClC1=C(C(=O)OC)C=CC(=C1)C(C=CN(C)C)=O | C13H14ClNO3
